US20010041709A1
To a solution of (3,5-dichloro-phenylethynyl)-trimethylsilane (4.85 g, 19.9 mmol) in methanol (50 mL) was added 1 M potassium hydroxide (30 mL). The reaction mixture was stirred 1 h at room temperature and evaporated. The residue was treated with water (10 mL) and extracted with 3×40 mL diethyl ether. The tried organic phases were evaporated to give the desired 1,3-dichloro-5-ethynyl-benzene product in 2.3 g yield.

reactant | (3,5-dichloro-phenylethynyl)-trimethylsilane | 19.9 mmol, 4.85 g | ClC=1C=C(C=C(C1)Cl)C#C[Si](C)(C)C | C11H12Cl2Si
reactant | potassium hydroxide | 1 M, 30 mL | [OH-].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 1,3-dichloro-5-ethynyl-benzene | ClC1=CC(=CC(=C1)C#C)Cl | C8H4Cl2
